US05622954
Under a nitrogen atmosphere, a stirring solution of 22.7 grams (0.067 mole) of 1-fluoro-1-phenylsulfonyl-3-methyl-3-(4-chlorophenyl)-1-butene, 42.0 grams (0.14 mole) of tributyltin hydride, and 0.5 gram (catalyst) of azobisisobutyronitrile in 700 mL of cyclohexane is heated at reflux for about three hours. After this time the reaction mixture is cooled to ambient temperature, and 125 mL of silica gel is added. The mixture is concentrated under reduced pressure, and the residue is subjected to column chromatography. The product-containing fractions are combined and concentrated under reduced pressure, yielding 1-fluoro-3-(4-chlorophenyl)-3-methyl-1-tributylstannyl-1-butene.

reactant | 1-fluoro-1-phenylsulfonyl-3-methyl-3-(4-chlorophenyl)-1-butene | 0.067 mole, 22.7 grams | FC(=CC(C)(C1=CC=C(C=C1)Cl)C)S(=O)(=O)C1=CC=CC=C1 | C17H16ClFO2S
reactant | tributyltin hydride | 0.14 mole, 42.0 grams | C(CCC)[SnH](CCCC)CCCC
reactant | azobisisobutyronitrile | 0.5 gram | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | cyclohexane | 700 mL | C1CCCCC1 | C6H12
product | 1-fluoro-3-(4-chlorophenyl)-3-methyl-1-tributylstannyl-1-butene | FC(=CC(C)(C)C1=CC=C(C=C1)Cl)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C11H11ClF.3C4H9.Sn/c1-11(2,7-8-13)9-3-5-10(12)6-4-9;3*1-3-4-2;/h3-7H,1-2H3;3*1,3-4H2,2H3;
